US04448729
2-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-6-aminobenzonitrile
A solution of 10 g of 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-6-nitrobenzonitrile, 2.5 g 10% Pd on carbon and 10 g cyclohexene in 500 ml absolute ethanol is refluxed for 30 min. The reaction mixture is cooled to room temperature, filtered through Celite and freed of solvent. Trituration with diethyl ether and drying of the insolubles gives 6.1 g of the title compound as a white solid, m.p. 123°-125° C.

reactant | 2-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-6-nitrobenzonitrile | 10 g | C(C)(=O)C1=C(C(=C(OCC(COC2=C(C#N)C(=CC=C2)[N+](=O)[O-])O)C=C1)CCC)O | C21H22N2O7
reactant | cyclohexene | 10 g | C1=CCCCC1 | C6H10
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 2.5 g | [Pd] | Pd
product | 2-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-hydroxypropoxy]-6-aminobenzonitrile | 6.1 g | C(C)(=O)C1=C(C(=C(OCC(COC2=C(C#N)C(=CC=C2)N)O)C=C1)CCC)O | C21H24N2O5
